US07902367B2
Methyl 3-[3-[(benzothiazol-2-yl)oxymethyl]piperidin-1-yl]benzoate
Using 3-[(benzothiazol-2-yl)oxymethyl]piperidine (58.0 mg, 0.234 mmol) and 3-(methoxycarbonyl)phenylboric acid (84.2 mg, 0.468 mmol), the same procedure was followed as in Example 2 to give 17.6 mg (20%) of the desired compound as a colorless oil.

reactant | 3-[(benzothiazol-2-yl)oxymethyl]piperidine | 0.234 mmol, 58.0 mg | S1C(=NC2=C1C=CC=C2)OCC2CNCCC2 | C13H16N2OS
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.468 mmol, 84.2 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[(benzothiazol-2-yl)oxymethyl]piperidin-1-yl]benzoate | 17.6 mg, 20% | S1C(=NC2=C1C=CC=C2)OCC2CN(CCC2)C=2C=C(C(=O)OC)C=CC2 | C21H22N2O3S
